Buck converter 12V to 5V, 100kHz switching, LC output filter

Vin 1 0 DC 12
Vctrl gate 0 PULSE(0 5 0 10n 10n 4.167u 10u)

* Voltage-controlled switch from Vin to switching node
S1 1 sw gate 0 SWMOD
.model SWMOD SW(Ron=0.01 Roff=1Meg Vt=2.5 Vh=0.5)

* Freewheeling diode: anode at ground, cathode at switching node
D1 0 sw DMOD
.model DMOD D(Is=1e-14 Rs=0.01 N=1.0 Cjo=1e-11 Tt=1e-9)

* LC output filter
L1 sw out 100u IC=0
C1 out 0 47u IC=0

* Resistive load
Rload out 0 5

.control
tran 100n 2m 0 uic
print v(out)
.endc

.end
