Boost Converter 5V to 12V, 100kHz switching

.control
    tran 0.1u 5m uic
    print v(out)
.endc

Vin 1 0 DC 5
L1 1 2 100uH
Vgate gate 0 PULSE(0 5 0 1n 1n 5.833u 10u)
S1 2 0 gate 0 SWMOD
D1 2 out DMOD
Cout out 0 100uF IC=0
Rload out 0 20

.model SWMOD SW(Ron=0.01 Roff=1Meg Vt=2.5 Vh=0.1)
.model DMOD D(Rs=0.01 N=1 Is=1e-14)

.end
